US07098212B2
6-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenoxymethyl)-nicotinic acid methyl ester
To a solution of 2-(4-chloro-2-hydroxy-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone (0.11 g, 0.27 mmol) in dioxane (1 mL) was added 6-bromomethyl-nicotinic acid methyl ester (0.075 g, 0.32 mmol) and cesium carbonate (0.15 g, 0.47 mmol). The reaction was stirred at ambient temperature for 6 days, then concentrated. Chromatography on silica gel gave the title compound (0.13 g).

reactant | 2-(4-chloro-2-hydroxy-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone | 0.27 mmol, 0.11 g | ClC1=CC(=C(OCC(=O)N2[C@@H](CN([C@H](C2)C)CC2=CC=C(C=C2)F)C)C=C1)O | C21H24ClFN2O3
reactant | 6-bromomethyl-nicotinic acid methyl ester | 0.32 mmol, 0.075 g | COC(C1=CN=C(C=C1)CBr)=O | C8H8BrNO2
reactant | cesium carbonate | 0.47 mmol, 0.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 6-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenoxymethyl)-nicotinic acid methyl ester | 0.13 g | COC(C1=CN=C(C=C1)COC1=C(C=CC(=C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C29H31ClFN3O5
